US07307094B2
A mixture of N-(1-azabicyclo[2.2.2]oct-3-yl)-2-benzofuran-5-ylbenzoxazole-4-carboxamide (30 mg, 0.077 mmol), 10% palladium on carbon (10 mg), and methanol (1 mL) was treated with hydrogen (50 psi) for 24 h on a parr-shaker apparatus, and then the mixture was filtered through a microfilter and washed with methanol. The filtrate was concentrated and the crude material was purified by semi-preparative HPLC to afford N-(1-azabicyclo[2.2.2]oct-3-yl)-2-(2,3-dihydrobenzofuran-5-yl)benzoxazole-4-carboxamide (8 mg, 26%) as a white solid: 1H NMR (500 MHz, CDCl3) δ 9.60 (d, J=7.0 Hz, 1H), 8.15 (dd, J=7.5, 1.5 Hz, 1H), 8.05 (s, 1H), 8.04 (dd, J=8.5, 1.5 Hz, 1H), 7.66 (dd, J=8.5, 1.0 Hz, 1H), 7.42 (t, J=8.0 Hz, 1H), 6.94 (d, J=8.5 Hz, 1H), 4.72 (t, J=8.5 Hz, 2H), 4.36-4.30 (m, 1H), 3.54 (ddd, J=14.0, 9.5, 2.0 Hz, 1H), 3.34 (t, J=8.5 Hz, 2H), 3.16-2.86 (m, 5H), 2.22-2.09 (m, 2H), 1.83-1.65 (m, 3H); MS (ESI+) m/z 390 (M+H); HPLC>99% (AUC), tR=12.67 min.

reactant | N-(1-azabicyclo[2.2.2]oct-3-yl)-2-benzofuran-5-ylbenzoxazole-4-carboxamide | 0.077 mmol, 30 mg | N12CC(C(CC1)CC2)NC(=O)C=2C=CC=C1C2N=C(O1)C1=CC=2C(=COC2)C=C1 | C23H21N3O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 10 mg | [Pd] | Pd
solvent | methanol | 1 mL | CO | CH4O
product | N-(1-azabicyclo[2.2.2]oct-3-yl)-2-(2,3-dihydrobenzofuran-5-yl)benzoxazole-4-carboxamide | 8 mg, 26% | N12CC(C(CC1)CC2)NC(=O)C=2C=CC=C1C2N=C(O1)C=1C=CC2=C(CCO2)C1 | C23H23N3O3
